US08871361B2
Synthesis of 2-(3-iodophenyl)-1-(o-tolyl)-1H-imidazole
To a 500 mL round bottom flask was added 3-iodo-N-(o-tolyl)benzimidamide (7.77 g, 23.11 mmol), 2-chloroacetaldehyde (5.87 ml, 46.2 mmol), sodium bicarbonate (3.88 g, 46.2 mmol), and 100 mL 2-propanol. The reaction mixture was heated to reflux under nitrogen for 5 hours. The reaction mixture was concentrated, water was added, and the mixture extracted three times with ethyl acetate. The organic extracts were dried over magnesium sulfate, filtered, and evaporated. The residue was purified by column chromatography eluting with 40 and 50% ethyl acetate/hexane (4.6 g, 55%).

reactant | 3-iodo-N-(o-tolyl)benzimidamide | 23.11 mmol, 7.77 g | IC=1C=C(C(NC2=C(C=CC=C2)C)=N)C=CC1 | C14H13IN2
reactant | 2-chloroacetaldehyde | 46.2 mmol, 5.87 ml | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 46.2 mmol, 3.88 g | C([O-])(O)=O.[Na+]
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
product | 2-(3-iodophenyl)-1-(o-tolyl)-1H-imidazole | IC=1C=C(C=CC1)C=1N(C=CN1)C1=C(C=CC=C1)C | C16H13IN2
